US06133279
Under a nitrogen atmosphere, 1.0 g of 5-acetoxy-4,6-di-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)-2,3-dihydrobenzofuran was dissolved in 30 ml of toluene. To the solution was added 5.5 ml of diisobutyl aluminum hydride (1.0 M in toluene) and the mixture was stirred at room temperature for 2 hours. After reaction, the reaction solution was combined with a saturated aqueous ammonium chloride solution and 10% hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and then concentrated. The concentrate was purified by silica gel column chromatography eluting with n-hexane containing 5% ethyl acetate to give 0.33 g of 4,6-di-t-butyl-5-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)-2,3-dihydrobenzofuran as a pale yellow oil (yield 36%).

reactant | 5-acetoxy-4,6-di-t-butyl-2-methyl-2-(4-nitrophenoxymethyl)-2,3-dihydrobenzofuran | 1.0 g | C(C)(=O)OC=1C(=CC2=C(CC(O2)(COC2=CC=C(C=C2)[N+](=O)[O-])C)C1C(C)(C)C)C(C)(C)C | C26H33NO6
reactant | diisobutyl aluminum hydride | 1.0 M, 5.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4,6-di-t-butyl-5-hydroxy-2-methyl-2-(4-nitrophenoxymethyl)-2,3-dihydrobenzofuran | 0.33 g, yield 36% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(COC2=CC=C(C=C2)[N+](=O)[O-])C)C(C)(C)C)O | C24H31NO5
